### PR TITLE
[Merged by Bors] - feat(NumberTheory/LSeries/*): add material on convergence

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
This continues a series of PRs on L-series.

Here we add `ArithmeticFunction.LSeriesHasSum` (in `NumberTheory.LSeries.Basic`) and `ArithmeticFunction.abscissaOfAbsConv` (in a new file `NumberTheory.LSeries.Convergence`), together with some results about these notions.

See [here](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/L-series/near/422275501) on Zulip.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/LSeries/Convergence.lean [hunk 1]
```diff
@@ -0,0 +1,96 @@
...
+    · simp only [gt_iff_lt, lt_self_iff_false] at hy
+    · exact ⟨z - 1,  ⟨z-1, h (z - 1) <| EReal.bot_lt_coe _, rfl⟩, by norm_cast; exact sub_one_lt z⟩
+    · exact ⟨0, ⟨0, h 0 <| EReal.bot_lt_coe 0, rfl⟩, EReal.zero_lt_top⟩
+  · exact abscissaOfAbsConv_le_of_forall_lt_LSeriesSummable <| by exact_mod_cast h
+  · exact le_top
+
+/-- If `‖f n‖` is bounded by a constant times `n^x`, then the abscissa of absolute convergence
+of `f` is bounded by `x + 1`. -/
+lemma abscissaOfAbsConv_le_of_le_const_mul_rpow {f : ArithmeticFunction ℂ} {x : ℝ}
+    (h : ∃ C, ∀ n, ‖f n‖ ≤ C * n ^ x) : abscissaOfAbsConv f ≤ x + 1 := by
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Convergence.lean:82]: Maybe this lemma and the next might be better formulated as an "IsBigO" statement?

File: Mathlib/NumberTheory/LSeries/Convergence.lean [hunk 2]
```diff
@@ -0,0 +1,96 @@
...
+
+/-- The abscissa `x : EReal` of absolute convergence of the L-series associated to `f`:
+the series converges absolutely at `s` when `re s > x` and does not converge absolutely
+when `re s < x`. -/
+noncomputable def abscissaOfAbsConv (f : ArithmeticFunction ℂ) : EReal :=
+  sInf <| Real.toEReal '' {x : ℝ | LSeriesSummable f x}
+
+/-- An open right half plane is open. -/
+lemma _root_.Complex.isOpen_rightHalfPlane (x : EReal) : IsOpen {z : ℂ | x < z.re} :=
+  isOpen_lt continuous_const <| EReal.continuous_coe_iff.mpr continuous_re
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Convergence.lean:33]: I think this probably belongs elsewhere. There is a similar lemma (with `im` rather than `re`) inlined in `differentiableAt_jacobiTheta₂` (with a slightly different proof). It might be desirable to unify these somewhere, and treat left / right / upper / lower halfplanes together.

File: Mathlib/NumberTheory/LSeries/Convergence.lean (hunk 1 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Convergence.lean:82]: I'll think about that.

File: Mathlib/NumberTheory/LSeries/Convergence.lean (hunk 2 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Convergence.lean:33]: I don't think it makes much sense to "unify" them in the sense that one has one statement covering all of them. But it certainly makes sense to have four such lemmas together in a suitable place. What would be a reasonable file for them to live in?

Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/Convergence.lean:33]: Yes, that's what I meant (four separate lemmas in the same file). I don't have a view on which file this should be, but probably the `#find_home` routine will.

File: Mathlib/NumberTheory/LSeries/Convergence.lean (hunk 1 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/Convergence.lean:82]: To be precise I meant that the hypothesis `h` could become `f =O[atTop] fun n => n ^ x`, which is almost definitionally equal to what you wrote but has a richer API attached to it – I'm not suggesting any change to the conclusion of the lemma.

File: Mathlib/NumberTheory/LSeries/Convergence.lean (hunk 2 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Convergence.lean:33]: `#find_home(!)` does not produce anything useful. I think it is best to add a new file `Mathlib.Analysis.Complex.HalfPlane` (which imports `Mathlib.Analysis.Complex.Basic` and `Mathlib.Topology.Instances.EReal`) for these four lemmas.

File: Mathlib/NumberTheory/LSeries/Convergence.lean (hunk 1 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Convergence.lean:79]: I have now added a "isBigO" version of `LSeriesSummable_of_le_const_mul_rpow`, which did require some additional work to deal with the fact that O() means that the bound holds eventually and not a priori everywhere, and then used that to provide "isBigO" versions of these two lemmas (in addition, as the other versions might still be useful).

File: Mathlib/NumberTheory/LSeries/Convergence.lean (hunk 2 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Convergence.lean]: (I do not actually use the fact that a right half-plane is open in this PR, but it will come in handy in later contributions.)

**Review by loefflerd — APPROVED** [review]
Looks good to me!

File: Mathlib/Analysis/Complex/Halfplane.lean [hunk 3]
```diff
@@ -0,0 +1,34 @@
+/-
+Copyright (c) 2024 Michael Stoll. All rights reserved.
```
Comment (riccardobrasca) [inline Mathlib/Analysis/Complex/Halfplane.lean:2]: Do we really need this file? It seems very specific and I don't see where it is used.

Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/Complex/Halfplane.lean:2]: See the comments above.
I will need the right half-plane version eventually in a follow-up PR. If it helps, I can defer adding the material until it is actually needed.

Comment (riccardobrasca) [reply Mathlib/Analysis/Complex/Halfplane.lean:2]: Sorry, I didn't see the comment. Yes, let's defer those, you can even open a separate PR with only those results, this one is probably a little specialized to number theorist.

bors d+
